US04452985
A. 3-Acetylbenzenecarboximidic Acid Ethyl Ester, Hydrochloride
To an ice-water cooled solution of 29 g. (0.2 mole) of m-cyanoacetophenone in 375 ml. of dry toluene, containing 13 ml. (0.2 mole) of absolute ethanol, is bubbled a stream of hydrogen chloride gas for 2 hours. The solution is allowed to stand in a cold room overnight. The precipitate which forms is collected to give 34 g. of product. A small amount is recrystallized from ethanol (petroleum ether is added to initiate precipitation) to afford a sample with a melting point of 130°-132°.

reactant | m-cyanoacetophenone | 0.2 mole | C(#N)C=1C=C(C=CC1)C(C)=O | C9H7NO
reactant | ethanol | 0.2 mole | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Acetylbenzenecarboximidic Acid Ethyl Ester, Hydrochloride | Cl.C(C)OC(=N)C1=CC(=CC=C1)C(C)=O | InChI=1S/C11H13NO2.ClH/c1-3-14-11(12)10-6-4-5-9(7-10)8(2)13;/h4-7,12H,3H2,1-2H3;1H
